Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:10].[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]#[C:8][H:9],2.4184134521900003
[H:1][C:2][H:3].[O:4]=[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-2.94661705299
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14],-4.61865018872
[C:3]([H:4])#[C:5][C:6]([H:7])[H:8].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],-4.99060874169
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])[H:10]>>[H:10].[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8][H:9],4.49632352549
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],3.6692781784
[C:7]([H:8])([H:9])([C:10])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-3.74806155485
[C:3][H:4].[O:1]=[C:2][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3][H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-5.539739045269999
[O:1][O:2][C@@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:4].[O:1][O:2]/[C:3](=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.80492699262
[H:9].[O:1][C:2](=[O:3])[C:4]([H:5])([H:6])[C:7]#[C:8]>>[O:1][C:2](=[O:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-6.00833171783
[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])[H:13],-6.86958022674
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],1.92849760652
[H:1][C:2]#[C:3][C:4][O:6][C:7]([H:8])([H:9])[H:10].[H:5]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-4.16394307398
[C:14]([H:15])([H:16])[H:17].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.2836256565200002
[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14],-5.00878603476
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9],5.20035742611
[C:6]([C:7]([H:8])([H:9])[H:10])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[C:5]#[C:11][C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.24519067799
[H:11].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.58509158129
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C@:8]([H:9])([C:10]([H:11])([H:12])[H:13])[O:14]>>[H:1][C:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C@@:8]([H:9])([C:10]([H:11])([H:12])[H:13])[O:14]1,-3.51794694
[H:1][C:2]([O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][C:10]([H:11])([H:12])[H:13].[O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],3.12717426296
[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6]#[C:7][O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][H:9],-4.58021023584
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.63020757363
[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-0.858536844439
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14],4.58005616024
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-3.71691337131
[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[O:1]>>[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11],-6.322810393790001
[O:1]=[C:2]([H:3])[C:4]#[C:5].[O:6]=[C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[H:9],-1.88429424783
[H:1][C:2]#[C:3][O:4].[H:5]>>[H:1][C:2]#[C:3][O:4][H:5],-3.2100748931
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],3.14459839548
